US05151442
Trans-4-(4-chlorophenylthio)-6-cyano-2,2-dimethyl-3-hydroxychroman (SR 44611)
A mixture of 2 g of 6-cyano-2,2-dimethyl-3,4-epoxychroman and 1.8 g of parachlorothiophenol in 15 ml of dioxane and 0.3 ml of a 35% methanolic solution of benzyltrimethylammonium hydroxide is refluxed for 5 hours.

reactant | 6-cyano-2,2-dimethyl-3,4-epoxychroman | 2 g | C(#N)C=1C=C2C3C(C(OC2=CC1)(C)C)O3 | C12H11NO2
reactant | parachlorothiophenol | 1.8 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | Trans-4-(4-chlorophenylthio)-6-cyano-2,2-dimethyl-3-hydroxychroman | ClC1=CC=C(C=C1)S[C@H]1[C@@H](C(OC2=CC=C(C=C12)C#N)(C)C)O | C18H16ClNO2S
